### PR TITLE
[Merged by Bors] - feat(CategoryTheory): localizer morphisms which induces fully faithful functors on localized categories

### PR DESCRIPTION
**Pull request by joelriou**
---

Unfortunately, we cannot define `CategoryTheory.FunctorProperty` as property of functors between categories with arbitrary universe parameters (all at the same time), so that some of the proofs here basically reproduce for `FullyFaithful` what was previously done for `IsEquivalence`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean [hunk 1]
```diff
@@ -136,6 +136,29 @@ lemma isEquivalence_iff : G.IsEquivalence ↔ G'.IsEquivalence :=
   ⟨fun _ => Φ.isEquivalence_imp L₁ L₂ G L₁' L₂' G',
     fun _ => Φ.isEquivalence_imp L₁' L₂' G' L₁ L₂ G⟩
 
+/-- If a localizer morphism induces a fully faithful functor on some choice of
+localized categories, it will be so for any choice of localized categories. -/
+noncomputable def fullyFaithfulImp (hG : G.FullyFaithful) : G'.FullyFaithful :=
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean]:
```suggestion
private noncomputable def fullyFaithfulImp (hG : G.FullyFaithful) : G'.FullyFaithful :=
```

File: Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean [hunk 2]
```diff
@@ -234,6 +257,96 @@ instance IsLocalizedEquivalence.comp [Φ.IsLocalizedEquivalence]
...
+  nonempty_fullyFaithful := by
+    rw [Φ.nonempty_fullyFaithful_iff W₁.Q W₂.Q (Φ.localizedFunctor W₁.Q W₂.Q) L₁ L₂ G]
+    exact ⟨hG⟩
+
+instance [Φ.IsLocalizedEquivalence] : Φ.IsLocalizedFullyFaithful where
+  nonempty_fullyFaithful := ⟨Functor.FullyFaithful.ofFullyFaithful _⟩
+
+/-- If a `LocalizerMorphism` becomes a fully faithful after localization, then any compatible
+functor between the localized categories is fully faithful. -/
+noncomputable irreducible_def fullyFaithful
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean]:
```suggestion
@[no_expose] noncomputable def fullyFaithful
```

File: Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean [hunk 3]
```diff
@@ -234,6 +257,96 @@ instance IsLocalizedEquivalence.comp [Φ.IsLocalizedEquivalence]
     Functor.IsLocalization.of_iso _ (Functor.associator _ _ _).symm
   of_isLocalization_of_isLocalization _ W₃.Q
 
+/-- Condition that a `LocalizerMorphism` induces a fully faithful functor
+on the localized categories -/
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean]:
```suggestion
on the localized categories. -/
```

File: Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean [hunk 4]
```diff
@@ -234,6 +257,96 @@ instance IsLocalizedEquivalence.comp [Φ.IsLocalizedEquivalence]
...
+instance [Φ.IsLocalizedEquivalence] : Φ.IsLocalizedFullyFaithful where
+  nonempty_fullyFaithful := ⟨Functor.FullyFaithful.ofFullyFaithful _⟩
+
+/-- If a `LocalizerMorphism` becomes a fully faithful after localization, then any compatible
+functor between the localized categories is fully faithful. -/
+noncomputable irreducible_def fullyFaithful
+    [h : Φ.IsLocalizedFullyFaithful] [CatCommSq Φ.functor L₁ L₂ G] :
+    G.FullyFaithful := (Nonempty.some (by
+  rw [Φ.nonempty_fullyFaithful_iff L₁ L₂ G W₁.Q W₂.Q (Φ.localizedFunctor W₁.Q W₂.Q)]
+  exact h.nonempty_fullyFaithful))
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean]:
```suggestion
    G.FullyFaithful := 
  Nonempty.some (by
    rw [Φ.nonempty_fullyFaithful_iff L₁ L₂ G W₁.Q W₂.Q (Φ.localizedFunctor W₁.Q W₂.Q)]
    exact h.nonempty_fullyFaithful)
```

**Comment by joelriou** [comment]
Thanks @robin-carlier for the reviews!

File: Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean [hunk 5]
```diff
@@ -234,6 +257,97 @@ instance IsLocalizedEquivalence.comp [Φ.IsLocalizedEquivalence]
...
+    G.Faithful :=
+  (Φ.fullyFaithful L₁ L₂ G).faithful
+
+lemma full [Φ.IsLocalizedFullyFaithful] [CatCommSq Φ.functor L₁ L₂ G] :
+    G.Full :=
+  (Φ.fullyFaithful L₁ L₂ G).full
+
+/-- If a `LocalizerMorphism` becomes fully faithful after localization,
+then the induced functor on the localized categories is fully faithful. -/
+noncomputable irreducible_def fullyFaithfulLocalizedFunctor [Φ.IsLocalizedFullyFaithful] :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean]:
```suggestion
@[no_expose] noncomputable def fullyFaithfulLocalizedFunctor [Φ.IsLocalizedFullyFaithful] :
```

**Review by robin-carlier — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean (hunk 5 above)
Comment (riccardobrasca) [reply Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean]: Another possibility is to remove the `expose` at the beginning of the file, but if it is too complicated this solution is perfectly fine.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean (hunk 5 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean]: There’s a bunch of `def`s in the file that would still make sense as exposed I think.

(Overall we’re quite behind on removing top-level exposes in category theory because many basic things we manipulate (functors, isos) are `def`s, removing them often needs a review of all of these to think about what we really want to expose and what we don’t, it’s something we should do at some point but this is a larger scale effort)

**Comment by joelriou** [comment]
Thanks!

bors merge
